US04695581
13.6 g of 2,6-dimethylanisole was dissolved in 30 ml of methylene chloride, and 16 g of anhydrous aluminum chloride was added. Then, with water cooling, 11 g of propionyl chloride was added dropwise. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water, and the organic layer was separated and washed with water. The solvent was evaporated to give 18.7 g of 2,6-dimethyl-4-propionylanisole.

reactant | 2,6-dimethylanisole | 13.6 g | CC1=C(C(=CC=C1)C)OC | C9H12O
reactant | aluminum chloride | 16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
reactant | propionyl chloride | 11 g | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-4-propionylanisole | 18.7 g | CC1=C(C(=CC(=C1)C(CC)=O)C)OC | C12H16O2
